US04457925
A solution of 30 g of 17β-hydroxy-1α-methyl-5α-androstan-3-one in 300 ml of toluene and 90 ml of ethylene glycol is combined with 900 mg of p-toluenesulfonic acid and stirred for 6 hours with gradual removal by distillation. After cooling, the reaction solution is mixed with 3 ml of pyridine, diluted with diethyl ether, and washed with water. After evaporation, 35 g of 3,3-ethylenedioxy-1α-methyl-5α-androstan-17β-ol is obtained.

reactant | 17β-hydroxy-1α-methyl-5α-androstan-3-one | 30 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(C)[C@H]1CC2)C)=O | C20H32O2
reactant | p-toluenesulfonic acid | 900 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethylene glycol | 90 ml | C(CO)O | C2H6O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,3-ethylenedioxy-1α-methyl-5α-androstan-17β-ol | 35 g | C1OC2(C[C@@H]3CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3([C@H](C2)C)C)O)OC1 | C22H36O3
